US07528129B2
4d) (R)-1-(2-dimethylamino-7-methyl-1H-benzimidazol-5-ylmethyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 1h from 90 mg (0.14 mmol, purity 85%) (R)-1-carboxy-2-(2-dimethylamino-7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 35 mg (0.21 mmol) 1-(tetrahydropyran-4-yl)-piperazine.

reactant | (R)-1-carboxy-2-(2-dimethylamino-7-methyl-1H-benzimidazol-5-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.14 mmol, 90 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(NC(=N3)N(C)C)C(=C1)C)C(=O)O)C=CC=C2 | C28H34N6O5
reactant | 1-(tetrahydropyran-4-yl)-piperazine | 0.21 mmol, 35 mg | O1CCC(CC1)N1CCNCC1 | C9H18N2O
product | (R)-1-(2-dimethylamino-7-methyl-1H-benzimidazol-5-ylmethyl)-2-oxo-2-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCN(CC1)C1CCOCC1)=O)CC1=CC3=C(NC(=N3)N(C)C)C(=C1)C)C=CC=C2 | C37H50N8O5
